US07109186B2
Compound 107-A: N-(3,4-Difluoro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetamide
To a stirred suspension of 3,4-difluorobenzylamine (0.43 mg, 0.3 mmol) and resin bound morpholine (200 mg, 2.5–4.0 mmol/1 g) was added a solution of (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride (60 mg, 0.31 mmol) in CH2Cl2 (3 mL) and the mixture stirred for 1 h. The mixture was filtered and the filtrate concentrated to give the title product as a white solid (81.8 mg, 92% yield). MS calcd for C14H13F2NO4Na (M+Na): 320.29. found: 320.27.

reactant | 3,4-difluorobenzylamine | 0.3 mmol, 0.43 mg | FC=1C=C(CN)C=CC1F | C7H7F2N
reactant | morpholine | 2.5–4.0 mmol, 200 mg | N1CCOCC1 | C4H9NO
reactant | (2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetyl chloride | 0.31 mmol, 60 mg | CC1(OC(C(O1)=CC(=O)Cl)=O)C | C7H7ClO4
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | N-(3,4-Difluoro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetamide | 81.8 mg, 92% yield | FC=1C=C(CNC(C=C2OC(OC2=O)(C)C)=O)C=CC1F | C14H13F2NO4
